US07265149B2
In analogy to the procedure described for example 1 f], {6-[5-(4-chloro-phenyl)-2,4-dimethyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain {6-[5-(4-chloro-phenyl)-2,4-dimethyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as colorless crystals.

reactant | {6-[5-(4-chloro-phenyl)-2,4-dimethyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1C)C1=CC=C(C=C1)Cl)C)=O | C24H24ClN3O3
reactant | LiOH | [Li+].[OH-]
product | {6-[5-(4-chloro-phenyl)-2,4-dimethyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | ClC1=CC=C(C=C1)C=1C(=C(N(N1)C)COC1=CC=C2C=CN(C2=C1)CC(=O)O)C | C22H20ClN3O3
